US04906287
To a stirred solution of 24.7 g (0.097 mole) of 2-(4-chloro-2-fluorophenyl)-4-methyl-1,2,4-triazine-3,5(2H,4H)-dione in 30 mL of concentrated sulfuric acid was added dropwise a mixture of 70 mL of concentrated sulfuric acid and 100 mL of fuming nitric acid. The reaction mixture temperature was kept below 40° C. during the addition. Upon completion of addition the reaction mixture was stirred at ambient temperature for four hours. The reaction mixture was poured into ice-water and the mixture extracted with ethyl acetate. The combined extracts were dried with sodium sulfate and filtered. The filtrate was concentrated under reduced pressure to yield a solid. The solid was triturated with diethyl ether and collected by filtration to yield 20.6 g of 2-(4-chloro-2-fluoro-5-nitrophenyl)-4-methyl-1,2,4-triazine-3,5(2H,4H)-dione.

reactant | 2-(4-chloro-2-fluorophenyl)-4-methyl-1,2,4-triazine-3,5(2H,4H)-dione | 0.097 mole, 24.7 g | ClC1=CC(=C(C=C1)N1N=CC(N(C1=O)C)=O)F | C10H7ClFN3O2
reactant | nitric acid | 100 mL | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 30 mL | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 70 mL | S(O)(O)(=O)=O | H2O4S
product | 2-(4-chloro-2-fluoro-5-nitrophenyl)-4-methyl-1,2,4-triazine-3,5(2H,4H)-dione | 20.6 g | ClC1=CC(=C(C=C1[N+](=O)[O-])N1N=CC(N(C1=O)C)=O)F | C10H6ClFN4O4
